US07858640B2
[3-(4-chlorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]-acetic Acid
A solution of [3-(4-chlorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester (0.45 g), tetrahydrofuran (5.0 mL), methanol (5.0 mL) and 1.0 M aqueous lithium hydroxide solution (1.3 mL) was stirred at room temperature for 18 hours. The solution was acidified by the addition of 1.0 M aqueous hydrochloric acid and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure. Crystallisation of the residue from a mixture of water and propan-2-ol gave title compound as a white solid, 0.33 g.

reactant | [3-(4-chlorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester | 0.45 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)OC(F)F)CC1=CC=C(C=C1)Cl)C)=O | C21H17ClF3NO4
reactant | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 1.0 M, 1.3 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | methanol | 5.0 mL | CO | CH4O
product | [3-(4-chlorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]-acetic Acid | ClC1=CC=C(CC=2C(=NC3=C(C=CC(=C3C2C)OCC(=O)O)F)OC(F)F)C=C1 | C20H15ClF3NO4
